US07981874B2
tert-Butyl [2-(diisopropylphosphoryl)ethyl](4-methoxybenzyl)carbamate.
To a suspension of NaH (60%, 157 mg, 3.93 mmol) in THF (5 mL) at 0° C. was added tert-butyl (4-methoxybenzyl)carbamate (889 mg, 3.75 mmol) in THF (5 mL). After stirring for 30 minutes at 0° C., diisopropyl(vinyl)phosphine oxide (300 mg, 1.873 mmol) in THF (3 mL) was added. The reaction was allowed to slowly warn to room temperature and subsequently heated to 60° C. for 3 h. The mixture was quenched with saturated NH4Cl and extracted with EtOAc (2×). The combined organic layers were washed with brine, dried (MgSO4), and evaporated. Flash chromatography (0-10% MeOH/EtOAc) afforded the title compound as a pale yellow oil. MS: cal'd 398 (MH+), exp 398 (MH+).

reactant | NaH | 3.93 mmol, 157 mg | [H-].[Na+]
reactant | tert-butyl (4-methoxybenzyl)carbamate | 3.75 mmol, 889 mg | COC1=CC=C(CNC(OC(C)(C)C)=O)C=C1 | C13H19NO3
reactant | diisopropyl(vinyl)phosphine oxide | 1.873 mmol, 300 mg | C(C)(C)P(C=C)(C(C)C)=O | C8H17OP
solvent | THF | 5 mL | C1CCOC1 | C4H8O
solvent | THF | 5 mL | C1CCOC1 | C4H8O
solvent | THF | 3 mL | C1CCOC1 | C4H8O
product | tert-Butyl [2-(diisopropylphosphoryl)ethyl](4-methoxybenzyl)carbamate | C(C)(C)P(=O)(C(C)C)CCN(C(OC(C)(C)C)=O)CC1=CC=C(C=C1)OC | C21H36NO4P
